US06426345B1
The suspension of 2-methyl-4-(3-acetamidophenyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (8.6 g) in 3N hydrochloric acid (50 ml) was refluxed for an hour. The mixture was made basic by sodium bicarbonate (15 g) to obtain 2-methyl-4-(3-aminophenyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (7.4 g) in yellow powder.

reactant | 2-methyl-4-(3-acetamidophenyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 8.6 g | CC1=NC2=C(N(C1=O)C1=CC(=CC=C1)NC(C)=O)N=CC=C2 | C16H14N4O2
reactant | sodium bicarbonate | 15 g | C([O-])(O)=O.[Na+]
solvent | hydrochloric acid | 3N, 50 ml | Cl | ClH
product | 2-methyl-4-(3-aminophenyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 7.4 g | CC1=NC2=C(N(C1=O)C1=CC(=CC=C1)N)N=CC=C2 | C14H12N4O
